US05039805
For the preparation of the starting material [MS: 456 (1, M+H)], 6-(1-t-butyoxyformamido)hexanoic acid and 5-amino-2-chlorobenzoic acid are coupled to give 5-[6-(1-t-butoxyformamido)hexanamido]-2-chlorobenzoic acid, MS: 385 (2, M+H), the latter is coupled with β-alanine methyl ester to give N-[5-[6-(1-t-butoxyformamido)hexanamido]-2-chlorobenzoyl-β-alanine methyl ester, MS: 470 (14, M+H), and this is then saponified in methanolic sodium hydroxide solution.

reactant | 6-(1-t-butyoxyformamido)hexanoic acid | C(C)(C)(C)OC(=O)NCCCCCC(=O)O | C11H21NO4
reactant | 5-amino-2-chlorobenzoic acid | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
product | 5-[6-(1-t-butoxyformamido)hexanamido]-2-chlorobenzoic acid | C(C)(C)(C)OC(=O)NCCCCCC(=O)NC=1C=CC(=C(C(=O)O)C1)Cl | C18H25ClN2O5
